US05366987
(e) 2-[2-oxo-1-phenyl-2-[(2,4,6-trimethoxyphenyl)amino]ethyl]tridecanoic acid hydrazide
A solution of α-[[(2,4,6-trimethoxyphenyl)amino]carbonyl]-benzene acetic acid (46.73 g, 0.1353 mol), and 1,1'-carbonyldiimidazole (24.7 g, 0.152 mol) in dry THF (1.0 L) was stirred at room temperature under nitrogen for 2 hours. A white solid precipitated. To the suspension was added tridecanoic acid hydrazide (30.90 g, 0.1353 mol), and the mixture was stirred at room temperature for 17 hours, then at 40° C. for 21 hours. The mixture was chilled (+5° C.) and filtered. The filtercake was washed (THF, ether, water) and dried under house vacuum/air stream; yield 54.36 g (72%); mp 175°-180° C.

reactant | α-[[(2,4,6-trimethoxyphenyl)amino]carbonyl]-benzene acetic acid | 0.1353 mol, 46.73 g | COC1=C(C(=CC(=C1)OC)OC)NC(=O)C(C(=O)O)C1=CC=CC=C1 | C18H19NO6
reactant | 1,1'-carbonyldiimidazole | 0.152 mol, 24.7 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | tridecanoic acid hydrazide | 0.1353 mol, 30.90 g | C(CCCCCCCCCCCC)(=O)NN | C13H28N2O
solvent | THF | 1.0 L | C1CCOC1 | C4H8O
product | 2-[2-oxo-1-phenyl-2-[(2,4,6-trimethoxyphenyl)amino]ethyl]tridecanoic acid hydrazide | O=C(C(C1=CC=CC=C1)C(C(=O)NN)CCCCCCCCCCC)NC1=C(C=C(C=C1OC)OC)OC | C30H45N3O5
